US06133257
N-[3,5-Dimethyl-4-(2-pyrrolidin-1-ylethoxy)phenyl]-9-methoxybenzo[h]-5,6-dihydroquinazoline-2-amine
1-[2-(2,6-dimethyl-4-nitrophenoxy)ethyl]pyrrolidine was prepared in a manner analogous to the alkylation described in Example 1, from 2,6-dimethyl-4-nitrophenol (1.0 g, 5.98 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (1.52 g, 8.97 mmol) and caesium carbonate (5.83 g, 17.94 mmol) to give the desired product as a brown oil. 6H (CDCl3) 7.89 (2H, s), 3.96 (2H, t, J 6.1 Hz), 2.93 (2H, t, J 6.1 Hz), 2.65 (4H, m), 2.35 (6H, s) and 1.83 (4H, m). MS (ES+) 265 (MH+).

reactant | 2,6-dimethyl-4-nitrophenol | 5.98 mmol, 1.0 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 8.97 mmol, 1.52 g | Cl.ClCCN1CCCC1
reactant | caesium carbonate | 17.94 mmol, 5.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-[2-(2,6-dimethyl-4-nitrophenoxy)ethyl]pyrrolidine | CC1=C(OCCN2CCCC2)C(=CC(=C1)[N+](=O)[O-])C | C14H20N2O3
